US07176242B2
Methyl 3-({[3-(benzyloxy)-1-(hydroxymethyl)propyl]amino}carbonyl)benzoate
Methyl hydrogen isophthalate (1.5 g, 8.2 mmol), 2-amino-4-(benzyloxy)butan-1-ol hydrochloride (2 g, 8.6 mmol), diisopropylethylamine (4.2 mL, 24.7 mmol), and HATU (3.8 mg, 9.9 mmol), in DMF (15 mL) are stirred at room temperature 1 h. The reaction is diluted in ethyl acetate and washed with water, 1N hydrochloric acid (aq), saturated sodium bicarbonate, brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica gel, 4% methanol/chloroform) provides the title compound. 1H NMR (400 MHz, CDCl3) δ 8.44 (s, 1H), 8.18 (d, 1H, J=7.9 Hz), 7.86 (d, 1H, J=7.9 Hz), 7.43 (t, 1H, J=7.6 Hz), 7.42–7.35 (m, 5H), 4.59 (s, 2H), 4.33 (m, 1H), 3.96 (s, 3H), 3.88–3.72 (m, 4H), 3.53 (s, 1H), 2.08 (m, 2H).

reactant | Methyl hydrogen isophthalate | 8.2 mmol, 1.5 g | C(C1=CC(C(=O)O)=CC=C1)(=O)OC | C9H8O4
reactant | 2-amino-4-(benzyloxy)butan-1-ol hydrochloride | 8.6 mmol, 2 g | Cl.NC(CO)CCOCC1=CC=CC=C1
reactant | diisopropylethylamine | 24.7 mmol, 4.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 9.9 mmol, 3.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3-({[3-(benzyloxy)-1-(hydroxymethyl)propyl]amino}carbonyl)benzoate | C(C1=CC=CC=C1)OCCC(CO)NC(=O)C=1C=C(C(=O)OC)C=CC1 | C20H23NO5
